US04629727
1-Acetyl-1-(3,4-dichlorophenyl)cyclobutane (4.86 g) and benzylamine (2.2 ml) were stirred at a temperature of 140° to 150° C. under nitrogen for 1 hour 30 minutes. Methanol (50 ml) was added to the cooled reaction mixture and sodium borohydride (0.8 g) was added over a period of ten minutes. The mixture was stirred at ambient temperature for two hours and then the volume of the reaction mixture was reduced by a half and the mixture poured into water (300 ml). The aqueous mixture was extracted with ether and the ether extract dried and the ether removed by evaporation. The residue was distilled (b.p. 182°-186° at 0.5 mm Hg) and the distillate treated with hydrogen chloride in ether to give N-benzyl-1-[1-(3,4-dichlorophenyl)cyclobutyl]ethylamine hydrochloride (m.p. 227°-228° C.).

reactant | 1-Acetyl-1-(3,4-dichlorophenyl)cyclobutane | 4.86 g | C(C)(=O)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl | C12H12Cl2O
reactant | benzylamine | 2.2 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | Methanol | 50 ml | CO | CH4O
reactant | sodium borohydride | 0.8 g | [BH4-].[Na+]
solvent | water | 300 ml | O | H2O
product | N-benzyl-1-[1-(3,4-dichlorophenyl)cyclobutyl]ethylamine hydrochloride | Cl.C(C1=CC=CC=C1)NC(C)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C19H21Cl2N.ClH/c1-14(22-13-15-6-3-2-4-7-15)19(10-5-11-19)16-8-9-17(20)18(21)12-16;/h2-4,6-9,12,14,22H,5,10-11,13H2,1H3;1H
